US06239131B1
Preparation of (+)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-benzyloxycarbonylphenyl)urea
Diphenylphosphoryl azide (1.38 g) and triethylamine (0.77 ml) were added to a solution of isophthalic acid benzyl ester (1.15 g) in anhydrous dioxane (20 ml), the mixture was stirred at 60° C. for 30 minutes and subsequently stirred at internal temperature 80° C. for one hour. The reaction mixture was allowed to come to room temperature, a solution of (+)-1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.1 g) in anhydrous dioxane (20 ml) was added thereto, the mixture was stirred for 2 hours at room temperature. The resultant mixture was concentrated under reduced pressure, chloroform was added, the mixture was washed succesively with saturated aqueous sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography(n-hexane:ethyl acetate=2:1), to thereby obtain 622 mg of the titled compound.

reactant | Diphenylphosphoryl azide | 1.38 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | isophthalic acid benzyl ester | 1.15 g | C(C1=CC=CC=C1)OC(C1=CC(C(=O)O)=CC=C1)=O | C15H12O4
reactant | (+)-1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.1 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2=CC=CC=C2)N)=O | C22H27N3O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (+)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-benzyloxycarbonylphenyl)urea | 622 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2=CC=CC=C2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC2=CC=CC=C2)=O | C37H38N4O5
